US08686022B2
5-tert-butyl-2-methoxy-N,N-dimethyl-3-nitro-benzamide
44 g 5-tert-butyl-2-methoxy-3-nitro-benzoic acid are dissolved in 400 ml of tetrahydrofuran, combined with 31 g carbonyldiimidazole and stirred for 2 hours at 50° C. The mixture is cooled to ambient temperature, combined with 173 ml of a 2 M solution of dimethylamine in tetrahydrofuran and stirred for a further 16 hours at 50° C. Then it is diluted with ethyl acetate and washed successively with 1 N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution. After drying with sodium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel with chloroform.

reactant | 5-tert-butyl-2-methoxy-3-nitro-benzoic acid | 44 g | C(C)(C)(C)C=1C=C(C(=C(C(=O)O)C1)OC)[N+](=O)[O-] | C12H15NO5
reactant | carbonyldiimidazole | 31 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-tert-butyl-2-methoxy-N,N-dimethyl-3-nitro-benzamide | C(C)(C)(C)C=1C=C(C(=C(C(=O)N(C)C)C1)OC)[N+](=O)[O-] | C14H20N2O4
